US05300514
1-[(3-Trifluoromethylbenzoyl]-4,5-diphenyl-3-pyrazolidinone [Method E]
A solution of 4,5-diphenyl-3-pyrazolidinone (2.0 g, 8.4 mmol) in 50 mL CH2Cl2 and 5 mL pyridine was treated dropwise with a solution of 3-trifluoromethylbenzoylchloride (1.4 g, 8.4 mmol) in 25 mL CH2Cl2 and stirred overnight. The mixture was washed with 1N HCl, dried over Na2SO4, evaporated, and the product isolated by chromatography (preparative HPLC) as 840 mg (24%) purple foam:

reactant | 4,5-diphenyl-3-pyrazolidinone | 8.4 mmol, 2.0 g | C1(=CC=CC=C1)C1C(NNC1C1=CC=CC=C1)=O | C15H14N2O
reactant | 3-trifluoromethylbenzoylchloride | 8.4 mmol, 1.4 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (3-Trifluoromethylbenzoyl]-4,5-diphenyl-3-pyrazolidinone | 840 mg, 24% | FC(C=1C=C(C(=O)N2NC(C(C2C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1)(F)F | C23H17F3N2O2
